US06613718B2
2,3-Dihydro-1-methyl-2-thioxo-6-(trifluoromethyl)-4(1H)-pyrimidinone
2,3-Dihydro-1-methyl-3-(phenylmethyl)-2-thioxo-6-(trifluoromethyl)-4(1H)-pyrimidinone (1.0 g) was dissolved in m-xylene (15 ml) and anhydrous aluminum chloride (0.58 g) was added. The solution was refluxed for 4 hr and poured onto ice water. Extraction with ethyl acetate and evaporation of the solvent in vacuo afforded a residue which was triturated with diethyl ether to afford the title compound (0.34 g). 1H NMR, CDCl3, 3.86 (3H, m), 6.49 (1H, s), 10.62 (1H, br s).

reactant | 2,3-Dihydro-1-methyl-3-(phenylmethyl)-2-thioxo-6-(trifluoromethyl)-4(1H)-pyrimidinone | 1.0 g | CN1C(N(C(C=C1C(F)(F)F)=O)CC1=CC=CC=C1)=S | C13H11F3N2OS
reactant | aluminum chloride | 0.58 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | m-xylene | 15 ml | C1(=CC(=CC=C1)C)C | C8H10
product | 2,3-Dihydro-1-methyl-2-thioxo-6-(trifluoromethyl)-4(1H)-pyrimidinone | 0.34 g | CN1C(NC(C=C1C(F)(F)F)=O)=S | C6H5F3N2OS
